US06805921B2
(3) Synthesis of p-(2-hydroxymethylethynyl)benzoic Acid-(R)-3-ethyl-1-methylpentyl Ester
A schlenk tube was charged with 62.5 mg of dichlorobistriphenylphosphine palladium (II) complex and 45.5 mg of copper (I) iodide, and an atmosphere in the system was replaced with nitrogen. 31.9 Grams of p-iodobenzoic acid-(R)-3-ethyl-1-methylpentyl ester and 7.50 g of 2-propyn-1-ol were dissolved in 100 mL of dry triethylamine, and the mixture was charged into the above schlenk tube and stirred at room temperature for 1 day.

reactant | p-iodobenzoic acid-(R)-3-ethyl-1-methylpentyl ester | C(C)C(C[C@@H](C)OC(C1=CC=C(C=C1)I)=O)CC | C15H21IO2
reactant | 2-propyn-1-ol | 7.50 g | C(C#C)O | C3H4O
solvent | triethylamine | 100 mL | C(C)N(CC)CC | C6H15N
catalyst | copper (I) iodide | 45.5 mg | [Cu]I
product | p-(2-hydroxymethylethynyl)benzoic Acid-(R)-3-ethyl-1-methylpentyl Ester | C(C)C(C[C@@H](C)OC(C1=CC=C(C=C1)C#CCO)=O)CC | C18H24O3
